US07226920B2
1) [1-(6-Chloro-pyrimidin-4yl)-1H-[1,2,4]triazol-3-yl]-phenyl-amine
To a suspension of 4,6-dichloro-pyrimidine (292 mg, 1.96 mmol ) in 5 ml anhydrous acetonitrile was added phenyl-(1H-[1,2,4]triazol-3-yl)-amine together with diisopropylamine (0.4 ml, 4.0 mmol). The mixture was heated at reflux in a sealed tube overnight. The reaction was cooled to room temperature and the solid was collected by filtration. The solid was washed with cold ether and dried under vacuum. Analytical data: LC/MS showed M+1=273.1, and M−1+271.2, retention time is 3.5 min. NMR in DMSO-d6: 9.78 (s, 1H); 9.28 (s, 1H); 8.90 (s, 1H); 7.90 (s, 1H); 7.65 (d, 2H); 7.28 (dd, 2H); 6.90 (dd, 1H).

reactant | 4,6-dichloro-pyrimidine | 1.96 mmol, 292 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | phenyl-(1H-[1,2,4]triazol-3-yl)-amine | C1(=CC=CC=C1)NC1=NNC=N1 | C8H8N4
reactant | diisopropylamine | 4.0 mmol, 0.4 ml | C(C)(C)NC(C)C | C6H15N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | [1-(6-Chloro-pyrimidin-4yl)-1H-[1,2,4]triazol-3-yl]-phenyl-amine | ClC1=CC(=NC=N1)N1N=C(N=C1)NC1=CC=CC=C1 | C12H9ClN6
